US07951801B2
4,6,6-trimethyl-morpholine-3-carboxylic acid (6-chloro-9H-β-carbolin-8-yl)-amide
The desired compound was prepared according to Method B from 6-chloro-9H-β-carboline-8-ylamine and 4,6,6-trimethyl-morpholine-3-carboxylic acid in 61% yield. 1H-NMR (DMSO-d6, 300 MHz) δ 1.15 (s, 3H), 1.39 (s, 3H), 1.98 (d, 1H), 2.26 (s, 3H), 2.72 (d, 1H), 2.80 (dd, 1H), 3.79(m, 2H), 7.91 (s, 1H), 8.03-8.08 (m, 2H), 8.22 (d, 1H), 8.97 (s, 1H). Retention Time (LC, method: ammonium acetate standard): 1.33 min. MS (M+H+): 373.2.

reactant | 6-chloro-9H-β-carboline-8-ylamine | ClC=1C=C2C=3C=CN=CC3NC2=C(C1)N | C11H8ClN3
reactant | 4,6,6-trimethyl-morpholine-3-carboxylic acid | CN1C(COC(C1)(C)C)C(=O)O | C8H15NO3
reactant | ammonium acetate | C(C)(=O)[O-].[NH4+]
product | 4,6,6-trimethyl-morpholine-3-carboxylic acid (6-chloro-9H-β-carbolin-8-yl)-amide | 61% yield | ClC=1C=C2C=3C=CN=CC3NC2=C(C1)NC(=O)C1N(CC(OC1)(C)C)C | C19H21ClN4O2
